US05108994
A mixture of 9-hydroxy-6-phthalimidopurine (0.5 g, 2.2 mmol). diethyl-2-hydroxyethylthiomethylphosphonate (0.45 g. 2 mmol) and triphenylphosphine (0.52 g, 2 mmol) was dissolved in dry tetrahydrofuran (20 ml) and cooled to 0°-5° C. A solution of diethylazodicarboxylate (0.348 g, 2.0 mmol) in dry tetrahydrofuran (10 ml) was added dropwise with stirring, and after the addition was completed the reaction was stirred at room temperature for 18 hours. The solvent was then removed in vacuo, and the residue was purified by column chromatography on silica using ethyl acetate: methanol (98:2) as eluent to give 9-[2-(diethoxyphosphorylmethylthio)ethoxy]-6-phthalimidopurine (0.45 g 56%) as a white solid after crystallisation from acetone/diethyl ether, m.p. 115°-116° C.; γmax (EtOH) 271mm (s 14020) υmax (KBr) 3100, 3060, 2960, 2900, 1780, 1725, 1650, 1600, 1580, 1453, 1400, 1380, 1360, 1320, 1280, 1240, and 1200 cm-1 ; δH [(CD3)2SO] 1.25 (6H, t, J 7Hz 2 × CH3), 3.0 (2H, d, J 13Hz, PCH2S), 3.1 (2H, t, J 7Hz CH20, 4.0 (4H, m, 2 × CH2), 4.7 (2H, t, J 7Hz, CH2S), 8.1 (4H, m, Ar H), 9.0 (1H, s, 2H), 9.1 (1H, s, 8-H). (Found C, 48.65; H, 4.55; N, 14.23%. C20H22N5O6PS requires C,48.87; H, 4.51; N, 14.25%).

reactant | 9-hydroxy-6-phthalimidopurine | 2.2 mmol, 0.5 g | ON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H7N5O3
reactant | diethyl-2-hydroxyethylthiomethylphosphonate | 2 mmol, 0.45 g | C(C)OP(OCC)(=O)CSCCO | C7H17O4PS
reactant | triphenylphosphine | 2 mmol, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 2.0 mmol, 0.348 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 9-[2-(diethoxyphosphorylmethylthio)ethoxy]-6-phthalimidopurine | 0.45 g, 56% | C(C)OP(=O)(OCC)CSCCON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H22N5O6PS
